US05565485
Step A: 4-Nitro-2-(propen-3-yl)phenol
A mixture of 4-nitrophenoxyallyl ether (4.0 g, 22.35 mmol) and 1,2-dichlorobenzene (15 mL) was heated to reflux for 6 h. The reaction mixture was cooled and purified by silica-gel flash column chromatography using hexanes and EtOAc-hexanes (1:6) as eluents, respectively. The pure product was obtained as an yellow oil (2.6 g).

reactant | 4-nitrophenoxyallyl ether | 22.35 mmol, 4.0 g | [N+](=O)([O-])C1=CC=C(OC=CCOCC=COC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C18H16N2O7
reactant | 1,2-dichlorobenzene | 15 mL | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 4-Nitro-2-(propen-3-yl)phenol | 2.6 g | [N+](=O)([O-])C1=CC(=C(C=C1)O)CC=C | C9H9NO3
